US05006520
In 250 ml of dichloromethane was suspended 22.4 g of anhydrous aluminium chloride. While stirring, 22.4 ml of butylmercaptan was added. After the mixture was stirred at room temperature for 1 hour, 17.7 g of 3-(4-methoxyphenyl)-1(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine was added thereto under ice-cooling. After the mixture was stirred at room temperature for 4 hours, the reaction mixture was poured into about 1 l of ice-water. The resulting crystals were collected by filtration, washed with water and recrystallized from methanol to give 13.8 g of 3-(4-hydroxyphenyl)-1-(4-methyl- phenyl)-1H-pyrazolo[3,4-b]pyridine, m.p. 201°-203° C.

reactant | aluminium chloride | 22.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | butylmercaptan | 22.4 ml | C(CCC)S | C4H10S
reactant | 3-(4-methoxyphenyl)-1(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine | 17.7 g | COC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)C | C20H17N3O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-(4-hydroxyphenyl)-1-(4-methyl- phenyl)-1H-pyrazolo[3,4-b]pyridine | 13.8 g | OC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)C | C19H15N3O
